US09210927B2
To a stirred solution of 4-bromo-2-fluorobenzoic acid (2.0 g, 9.17 mmol) in THF (16 mL), was added 1.0 Methyl magnesium bromide in THF (32 mL, 32.0 mmol) dropwise at 0° C. and the resultant reaction mixture was stirred at ambient temperature for 18 h. The reaction mixture was quenched with 2 N HCl and extracted with ethyl acetate. The combined ethyl acetate layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure to afford crude 4-bromo-2-ethylbenzoic acid as a colorless liquid that was used in the next step without purification (0.4 g): 1H NMR (400 MHz, CDCl3) δ 7.64 (d, J=8.4 Hz, 1H), 7.47 (m, 1H), 7.43 (m, 1H), 2.95 (q, J=4.0 Hz, 2H), 1.32 (t, J=4.0 Hz, 3H); ESIMS m/z 228.97 ([M+H]+).

reactant | 4-bromo-2-fluorobenzoic acid | 9.17 mmol, 2.0 g | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | Methyl magnesium bromide | C[Mg]Br
reactant | THF | 16 mL | C1CCOC1 | C4H8O
reactant | THF | 32.0 mmol, 32 mL | C1CCOC1 | C4H8O
product | 4-bromo-2-ethylbenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)CC | C9H9BrO2
